US06235731B1
1) Synthesis of N-(1-benzylpiperidin-4-yl)trifluoroacetamide
To a solution of 25.94 g (136.3 mM) of 4-amino-1-benzylpiperidine and 22.1 ml (27.3 mM) of pyridine in 250 ml of tetrahydrofuran was added a solution of 21.2 ml (43.9 mM) of trifluoroacetic anhydride in 100 ml of tetrahydrofuran dropwise under ice-cooling and the mixture was stirred at room temperature overnight. The solvent was then distilled off under reduced pressure and the residue was diluted with water and extracted with 3 portions of ethyl acetate. The pooled organic layer was dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/1) and the purified solid was rinsed with diethyl ether to provide the title compound.

reactant | 4-amino-1-benzylpiperidine | 136.3 mM, 25.94 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | pyridine | 27.3 mM, 22.1 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 43.9 mM, 21.2 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(1-benzylpiperidin-4-yl)trifluoroacetamide | C(C1=CC=CC=C1)N1CCC(CC1)NC(C(F)(F)F)=O | C14H17F3N2O
